US06521643B1
To a suspension of 4-(4-methoxypyridin-2-yl)-2-nitrocinnamic acid ethyl ester (659 mg) in acetic acid (11 ml) was added iron powder (673 mg), and the mixture was stirred at 100° C. for 2 hours. After cooling, the reaction mixture was poured into a saturated aqueous sodium hydrogencarbonate solution and filtered, and the filtrate was extracted with dichloromethane-methanol (5:1). The organic layer was washed with brine, dried over sodium sulfate and evaporated under reduced pressure. The residue was dissolved in ethanol (5 ml). To the solution was added a solution of sodium methoxide in methanol (28%, 3 ml), and the mixture was refluxed for 2 hours. After cooling, the reaction mixture was poured into a saturated aqueous ammonium chloride solution and extracted with dichloromethane. The organic layer was washed with brine, dried over sodium sulfate and evaporated under reduced pressure to give 7-(4-methoxypyridin-2-yl)-2-quinolone (140 mg).

reactant | 4-(4-methoxypyridin-2-yl)-2-nitrocinnamic acid ethyl ester | 659 mg | C(C)OC(C=CC1=C(C=C(C=C1)C1=NC=CC(=C1)OC)[N+](=O)[O-])=O | C17H16N2O5
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetic acid | 11 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 673 mg | [Fe] | Fe
product | 7-(4-methoxypyridin-2-yl)-2-quinolone | 140 mg | COC1=CC(=NC=C1)C1=CC=C2C=CC(NC2=C1)=O | C15H12N2O2
